US05030641
1-Aminocarbonyl-4-nitroxypiperidine
7.1 g. 4-Nitroxypiperidine are dissolved in 60 ml. water and 30 ml. methanol and mixed with 16.2 g. potassium cyanate. After the dropwise addition of 12 ml. glacial acetic acid, stirring is continued at ambient temperature for 4 hours. The inorganic salts are precipitated out by the addition of 100 ml. ethyl acetate. After suction filtration, the aqueous phase is separated off and the organic phase is dried with anhydrous sodium sulphate. After suction filtration, the filtrate is evaporated in a vacuum. The residue is triturated with diethyl ether and the crystals are filtered off with suction. There are obtained 8.3 g. of the title compound, i.e. 89% of theory; m.p. 110°-111° C.

reactant | 4-Nitroxypiperidine | O([N+](=O)[O-])C1CCNCC1 | C5H10N2O3
reactant | water | O | H2O
reactant | methanol | CO | CH4O
reactant | potassium cyanate | [O-]C#N.[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Aminocarbonyl-4-nitroxypiperidine | NC(=O)N1CCC(CC1)O[N+](=O)[O-] | C6H11N3O4
